US04877779
Diethylamine (1.55 mL, 15 mmol), paraformaldehyde (0.45 g, 15 mmol), and 63 mg copper(II) acetate were heated at 60° C. in 6 mL dioxane. After 1 hour 2.79 g (15 mmol) of 2-(pent-4-ynyl)-1,3-dithiane was added and the temperature adjusted to 85°-90° C. where it was kept overnight. The cooled reaction mixture was poured onto 10% KOH (10 mL) and filtered through Celite, which was subsequently washed with 50 mL of ether. The organics were separated and washed with water (3×20 mL), the aqueous portions were back extracted with methylene chloride (3×20 mL), and the combined organics washed with brine, dried (MgSO4), and evaporated at reduced pressure. The residue was Kugelrohr distilled at 1 mm, oven 140°-145° C., to give 3.08 g (76%) of 2-(6-diethylaminohex-4-ynyl)-1,3-dithiane. Analytical TLC (silica, 92:5:3, pet ether: EtAc: Et 3 N) Rf.26; IR (neat) 1635(w), 1455, 1424, 1375, 1329, 1272, 1198, 1909, 982, 910, 768 cm-1 ; 1H NMR (CDCl3) δ 0.99 (t, J=7.2 Hz, 6H), 1.6-1.7 (m, 2H), 1.75-1.9 (m, 3H), 2.0-2 (m, 1H), 2.1-2.2 (m, 2H), 2.46 (q, J=7.2 Hz, 4H), 2.7-2.9 (m, 4H), 330 (t, J=2.1 Hz, 2H), 3.99 (t, J=6.8 Hz, 1H). A portion of the product was converted into its oxalate salt and recrystallized from THF to give the analytical sample, mp 140°-145° C.

reactant | Diethylamine | 15 mmol, 1.55 mL | C(C)NCC | C4H11N
reactant | paraformaldehyde | 15 mmol, 0.45 g | C=O | CH2O
reactant | 2-(pent-4-ynyl)-1,3-dithiane | 15 mmol, 2.79 g | C(CCC#C)C1SCCCS1 | C9H14S2
reactant | KOH | 10 mL | [OH-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | copper(II) acetate | 63 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-(6-diethylaminohex-4-ynyl)-1,3-dithiane | 3.08 g, 76% | C(C)N(CC#CCCCC1SCCCS1)CC | C14H25NS2
